US04851321
500 ml of dimethylacetamide was added to 62.1 g of 5-aminobenzotriazole dihydrochloride, and 83.7 ml of triethylamine was dropwise added thereto with cooling in an ice bath. Further, 21.0 ml of pyridine was dropwise added, followed by dropwise addition of 42.3 g of phenyl chlorocarbonate at 5° C. or lower, and then, the whole was stirred for 2 hours at room temperature. After the reaction, the reaction solution was poured into 2 liters of water for crystallization, and the crystal formed was taken out by filtration to obtain 60.8 g of 5-phenoxycarbonylaminobenzotriazole. To 5.1 g of 5-phenoxycarbonylaminobenzotriazole thus-obtained was added 40 ml of acetonitrile, and 2.6 g of N,N-diethylethylenediamine was dropwise added thereto with stirring at 45° C., and then the whole was stirred for 2 hours as such. After the reaction, the reaction solution was cooled in an ice bath, and the crystal precipitate was taken out by filtration and recrystallized from 60 ml of a mixed solvent of methyl alcohol/acetonitrile (1/5) to obtain 3.8 g of the desired product. M.P.: 149°-150° C.

reactant | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
reactant | 5-aminobenzotriazole dihydrochloride | 62.1 g | Cl.Cl.NC1=CC2=C(NN=N2)C=C1
reactant | triethylamine | 83.7 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 42.3 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | water | 2 liters | O | H2O
solvent | pyridine | 21.0 ml | N1=CC=CC=C1 | C5H5N
product | 5-phenoxycarbonylaminobenzotriazole | 60.8 g | O(C1=CC=CC=C1)C(=O)NC1=CC2=C(NN=N2)C=C1 | C13H10N4O2
